US04933355
5-(2-Isopropylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid
The reaction described in Example 1 was repeated, but using 2.7 g of 2-isopropylaminothiazole-4-carbaldehyde, 2.3 g of rhodanine-3-acetic acid, 1.7 g of ammonium chloride, 1.7 ml of 28% v/v aqueous ammonia and 50 ml of ethanol, giving the title compound as dark red needles.

reactant | 2-isopropylaminothiazole-4-carbaldehyde | 2.7 g | C(C)(C)NC=1SC=C(N1)C=O | C7H10N2OS
reactant | rhodanine-3-acetic acid | 2.3 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1.7 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(2-Isopropylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid | C(C)(C)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C12H13N3O3S3
